Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain, Dizziness, Transfer
 
Major Surgical or Invasive Procedure:
Coronary angiogram

 
History of Present Illness:
___ with extensive cardiac history including 3 stents placed in 
___ at ___, repeat MI in  ___, HTN (non-adherent to his 
meds), reportedly negative stress testing last year 
(cardiologist at ___, presenting with sudden 
onset onset dizziness and tiredness. He had multiple short 
episodes dizziness during his physical work. At one point his 
dizziness was severe and started vomiting. He then went back to 
work and had another episode of dizziness with activity and had 
multiple episodes vomiting (x8). These were bilious with food 
content but never bloody. After the second vomiting episode, the 
patient developed sharp and dull left sided chest pain. The pain 
feels "as if someone is squeezing glass on him." This started at 
1500 and radiated to left arm. He states that he was ripping out 
cabinets when this occurred.  
 He had similar chest pains and vomiting with his prior MIs. He 
has had reocclusion of a stent in the past. He has been 
noncompliant with his aspirin and atorvastatin for the past 2 
weeks because he "forgets to take them." Took 2 nitros without 
relief.  
 The patient presented to ___ for evaluation of his 
dizziness and vomiting and chest pain. On arrival, he was 
actively vomiting yellow bilious material with severe dizziness. 
Vitals were stable and EKG with subtle 0.___levations 
leads II and III and repeated X2 in ED unchanged as well. He had 
a non-focal normal neuro exam. Head CT was performed due to the 
constent vomiting and it was negative. His chest pain when from 
___ to ___. Given cardiac hx and persistent vomiting and 
dizziness, he was transferred to ___ for higher level of care 
possible cath lab.  
 In the ED  
 =============  
 Initial vitals: 97.8 64 118/76 16 98% RA chest pain ___  
 Patient very tired appearing on exam  
 Labs were significant for:  
 
 14.7 MCV= 90  
 18.4 >--------< 272  
 43.4  
 
 N:90.6 L:4.7 M:4.1 E:0.0 Bas:0.2 ___: 0.4 Absneut: 16.69 
Abslymp: 0.86 Absmono: 0.75 Abseos: 0.00 Absbaso: 0.04  
 ___: 11.1 PTT: 23.6 INR: 1.0  
 140 106 20 AGap=16  
 ------------< 135  
 3.9 22 0.7  
 trop < 0.01 x1  
 Imaging showed  
 There is no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal silhouette is normal. No acute osseous 
abnormalities.  
 The patient received:  
 ___ 20:40 SL Nitroglycerin SL .4 mg  
 ___ 21:03 IV DRIP Nitroglycerin (0.35-3.5 mcg/kg/min 
ordered)  
 ___ 21:03 SL Nitroglycerin SL .4 mg  
 ___ 21:07 1000 mL NS Bolus 1000 ml.  
 The patient was shifted to the floor. On the floor, still 
nausea but not vomiting. very tired and has a little pain in the 
chest .
 
Past Medical History:
MI ___ s/p 3 stents
Stent thrombosis ___
Hyperlipidemia
 
Social History:
___
Family History:
The patient has significant family history of cardiovascular 
disease at a young age.  
 - Father: epilepsy.  
 - Mother: overweight. had a 5VD CABG  
 - Sisters: doesn't remember. had history of MI  
 - Brothers: overweight. history of MI's. The first one being in 
his ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 97.5 118/65 58 18 98%  
Wt: 68.5 kg  
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
PERRLA, EOMI.  
NECK: Supple without LAD  
PULM: full air entry bilaterally, no crackle. no wheeze. no 
rhonchi  
HEART: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-distended, non-tender. No rebound/guarding. BS+  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII intact, strength ___ in b/l ___, SLIT 

DISCHARGE PHYSICAL EXAM:
========================
Vitals: T= 97.3, HR 54-70, BP 104/62, RR 18, O2 97% RA
Weight:  68.9 kg 
General:  Appears comfortable, lying in bed
HEENT:  JVP not elevated
Lungs:  CTAB
CV:  RRR, S1, S2, no m/r/g
Abdomen:  Soft, nt, nd
Ext:  WWP, no ___ edema. R radial cath access site w/o hematoma

 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:50PM BLOOD WBC-18.4* RBC-4.85 Hgb-14.7 Hct-43.4 
MCV-90 MCH-30.3 MCHC-33.9 RDW-12.6 RDWSD-41.4 Plt ___
___ 07:50PM BLOOD Neuts-90.6* Lymphs-4.7* Monos-4.1* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-16.69* AbsLymp-0.86* 
AbsMono-0.75 AbsEos-0.00* AbsBaso-0.04
___ 09:00PM BLOOD Glucose-135* UreaN-20 Creat-0.7 Na-140 
K-3.9 Cl-106 HCO3-22 AnGap-16
___ 07:50PM BLOOD cTropnT-<0.01
___ 09:00PM BLOOD CK-MB-6
___ 01:42AM BLOOD %HbA1c-5.5 eAG-111
___ 09:00PM BLOOD Triglyc-49 HDL-48 CHOL/HD-4.0 
LDLcalc-133*
___ 09:00PM BLOOD TSH-2.9

DISCHARGE LABS:
===============

___ 03:05AM BLOOD WBC-9.4 RBC-4.23* Hgb-12.8* Hct-38.8* 
MCV-92 MCH-30.3 MCHC-33.0 RDW-13.3 RDWSD-44.8 Plt ___
___ 03:05AM BLOOD Glucose-101* UreaN-17 Creat-0.8 Na-141 
K-3.9 Cl-105 HCO3-24 AnGap-16

CARDIAC ENZYMES:
================
___ 07:50PM BLOOD cTropnT-<0.01
___ 09:00PM BLOOD CK-MB-6
___ 06:55AM BLOOD CK-MB-48* cTropnT-0.47*
___ 01:15PM BLOOD CK-MB-44* cTropnT-0.68*
___ 09:10PM BLOOD CK-MB-30* cTropnT-0.69*
___ 03:05AM BLOOD CK-MB-20* cTropnT-0.75*
___ 02:57PM BLOOD CK-MB-10 cTropnT-0.75*

IMAGING/STUDIES:
================
Coronary Anatomy
Dominance: Right
LMCA: The LMCA had minimal luminal irregularities.
LAD: The LAD had a 25% origin plaque. The proximal LAD had mild 
plaquing. S1 had an origin 50% plaque. D1 arose before the 
stented segment and had plaquing to 25%. There was an eccentric 
25% instent restenosis in the mid LAD after the smaller D2. D2 
had mild diffuse plaquing. The mid LAD after the stent was 
diffusely diseased to 30% with very slow flow (in the LAD and 
the diagonals) consistent with microvascular dysfunction.
LCX: The retroflexed origin CX gave off a small very high OM1 
(possibly a ramus intermedius) with probable occlusion of its 
upper pole (distal vessel not seen to fill in late). The 
proximal CX had an eccentric 25% stenosis before the stented 
segment of OM2/LPL. The stents had very mild in-stent 
restenosis. Flow in the stented OM2/LPL was delayed, consistent 
with microvascular dysfunction. The jailed upper pole of the OM2 
had an origin 25% stenosis. The AV groove CX proper was jailed 
by the
stents in the OM2 with an origin 65% stenosis immediately after 
the stented OM2.
RCA: The mid RCA was calcified. The RCA was diseased throughout 
to 40% proximally and 30% elsewhere. Flow in the RCA system was 
delayed, consistent with microvascular dysfunction. The RPDA 
gave off laterally oriented sidebranches. There was an adjacent 
larger early RPL1, small RPL2 and RPL3 branches, and a larger 
RPL4.
Intra-procedural Complications: None

Impressions:
1. Mild in-stent restenosis in the LAD and CX with small vessel 
branch disease (likely occlusion of a small branch of a small 
high OM1 and stenosis of the jailed AV groove CX), extensive 
mild atherosclerosis,
and diffuse very slow flow consistent with microvascular 
dysfunction.
2. Mild left ventricular diastolic dysfunction.

TTE ___:
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (biplane LVEF 50%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. Mild to moderate (___) mitral regurgitation is seen. 
There is borderline pulmonary artery systolic hypertension. 
There is no pericardial effusion. 

 IMPRESSION: Normal left ventricular cavity size with normal 
regional and low normal global systolic function. Mild-moderate 
mitral regurgitation. Borderline PA systolic hypertension. 
 
Brief Hospital Course:
___ with significant personal and family history of premature 
CAD, h/o multiple MI in the past s/p stents who was transferred 
from ___ with chest pain as well as dizziness, nausea 
and vomiting found to have NSTEMI medically managed as no 
intervenable disease seen on coronary angiography.

# NSTEMI, TYPE I: Significant history of CAD presenting with 
vomiting and chest pain similar to prior MI sx. ECG w/o acute 
changes but new troponin T elevation ___ to 0.47 consistent 
with NSTEMI. Treated with heparin drip, aspirin, statin, 
metoprolol. Trops peaked at 0.75, CK-MB peaked at 48 and down 
trending. Underwent coronary angiography ___ which showed: 
1. Mild in-stent restenosis in the LAD and CX with small vessel 
branch disease (likely occlusion of a small branch of a small 
high OM1 and stenosis of the jailed AV groove CX), extensive 
mild atherosclerosis, and diffuse very slow flow consistent with 
microvascular dysfunction.
2. Mild left ventricular diastolic dysfunction.

TTE showed EF 50% with no regional wall motion abnormalities and 
mild-moderate mitral regurgitation.

TRANSITIONAL ISSUES:
=====================
[] Reports inconsistent adherence to medication regimen at home. 
The importance of his medications for preventing future heart 
attacks was discussed this visit and should be reinforced in the 
outpatient setting.

# CONTACT: Wife, ___ ___
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth DAILY Disp 
#*30 Tablet Refills:*1 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY YOU WERE ADMITTED:
-You were vomiting and having chest pain and we were concerned 
you were having a heart attack

WHAT HAPPENED IN THE HOSPITAL:
-Your lab work showed you had a heart attack
-You underwent a heart catheterization but did not need any new 
stents placed

WHAT YOU SHOULD DO AT HOME:
-Please take all your medications as prescribed
-Please follow-up with your regular doctor and cardiologist. We 
have scheduled appointments for you below.

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Team
 
Followup Instructions:
___